US08314087B2
1-(2-(7-Methoxyquinolin-4-yloxy)propyl)-5-(thiophen-2-yl)pyridin-2(1H)-one.
A suspension of 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)propyl)pyridin-2(1H)-one (20 mg, 51 μmol), thiophen-2-ylboronic acid (13 mg, 103 μmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (2 mg, 3 μmol), and Na2CO3 (77 μl, 154 μmol) in DME (0.5 mL) was heated to 80° C. for 2 h. The mixture was purified on RP-HPLC and the product was netralized with CH2Cl2/NaOH (1 M). The product was lyophilized from 1:1 acetonitrile/water (1 mL) to give a white fluffy powder. MS (ESI pos. ion) m/z (MH+): 393. Calc'd exact mass for C22H20N2O3S: 392. 1H NMR (400 MHz, Chloroform-d) δ ppm 1.55 (d, J=6.02 Hz, 3H) 3.49 (d, J=3.01 Hz, 1H) 3.91 (s, 3H) 4.03 (dd, J=13.55, 8.03 Hz, 1H) 4.58 (dd, J=13.55, 3.01 Hz, 1H) 5.10-5.22 (m, 1H) 6.58 (d, J=9.54 Hz, 1H) 6.66 (d, J=5.02 Hz, 1H) 6.88 (d, J=3.01 Hz, 1H) 6.96-7.01 (m, 1H) 7.05 (dd, J=9.03, 2.51 Hz, 1H) 7.19 (d, J=5.02 Hz, 1H) 7.30 (d, J=2.01 Hz, 1H) 7.52 (dd, J=9.54, 2.51 Hz, 1H) 7.63 (d, J=2.51 Hz, 1H) 8.05 (d, J=9.03 Hz, 1H) 8.59 (d, J=5.52 Hz, 1H). 13C NMR (101 MHz, Chloroform-d) δ ppm 17.37, 53.44, 55.03, 55.49, 71.85, 100.05, 107.33, 114.41, 116.10, 118.50, 120.89, 122.78, 124.20, 127.97, 135.11, 138.95, 139.26, 151.43, 151.71, 160.01, 160.98, 161.84.

reactant | 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)propyl)pyridin-2(1H)-one | 51 μmol, 20 mg | BrC=1C=CC(N(C1)CC(C)OC1=CC=NC2=CC(=CC=C12)OC)=O | C18H17BrN2O3
reactant | thiophen-2-ylboronic acid | 103 μmol, 13 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 154 μmol, 77 μl | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 0.5 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 3 μmol, 2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(2-(7-Methoxyquinolin-4-yloxy)propyl)-5-(thiophen-2-yl)pyridin-2(1H)-one | COC1=CC=C2C(=CC=NC2=C1)OC(CN1C(C=CC(=C1)C=1SC=CC1)=O)C | C22H20N2O3S
